US05663162
5-((R)-1-ureidoethyl)imidazo[5,1-b]thiazole
To 0.234 g of 5-[(R)-1-(formylamino)ethyl]imidazo[5,1-b]thiazole (Preparation 18) was added 3 ml of an aqueous solution of 2N sodium hydroxide, and the mixture was stirred at room temperature for 16 hours. After the reaction mixture was adjusted to pH 5 with 5N hydrochloric acid and heated to a temperature of 70° C., 0.160 g of sodium cyanate was added and the resulting mixture was stirred at 70° C. for 1 hour and at room temperature for further 16 hours. The reaction mixture was concentrated to dryness under reduced pressure. The residue was mixed with 50 ml of methylene chloride and 50 ml of methanol to stir well the mixture before removal of insolubles by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified on Sephadex LH20 (eluent: chloroform-methanol=1:1) to give 0.221 g of the title compound (yield 87%). NMR (DMSOd-6) δ: 1.45 (3H, d, J=6.9 Hz), 5.13 (1H, dq, J8.7 Hz, 6.9 Hz), 5.52 (2H, br), 6.45 (1H, d, J=8.7 Hz), 6.92 (1H, s), 7.20 (1H, d, J=4.2 Hz), 7.80 (1H, d; J=4.2 Hz).

reactant | 5-[(R)-1-(formylamino)ethyl]imidazo[5,1-b]thiazole | 0.234 g | C(=O)N[C@H](C)C1=NC=C2SC=CN21 | C8H9N3OS
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrochloric acid | 5N | Cl | ClH
reactant | sodium cyanate | 0.160 g | [O-]C#N.[Na+]
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 5-((R)-1-ureidoethyl)imidazo[5,1-b]thiazole | 0.221 g, yield 87% | N(C(=O)N)[C@H](C)C1=NC=C2SC=CN21 | C8H10N4OS
